US04368069
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-formylbenzenesulfonamide
A mixture of 3.0 g of sodium bis(2-methoxyethoxy)aluminum hydride and 0.9 g of morpholine in 25 ml of dry tetrahydrofuran was cooled to -40° C. and 1.0 g of N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide was added. The resulting clear homogeneous solution was allowed to warm to room temperature over a period of 2 hours. Dilute hydrochloric acid was added and the mixture was extracted with methylene chloride. The organic extracts were washed, dried and evaporated. The crude product, which contained the desired aldehyde, the unreacted ester and the over-reduced alcohol, was purified by means of dry column chromatography. The purified product had a m.p. of 180° C.

reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 3.0 g | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | morpholine | 0.9 g | N1CCOCC1 | C4H9NO
reactant | N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 1.0 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C15H16N4O7S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-formylbenzenesulfonamide | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C=O | C14H14N4O6S
